US08557864B2
Trans-2-Decenoic Acid-Trans-2-Decenyl Ester, Compound 47
Trans-2-decenoic acid was dissolved in thionyl chloride (10 ml) and treated in water bath for 3 hours to distill off excess thionyl chloride. Trans-2-decen-1-ol (30 ml) was added to chloride of trans-2-decenoic acid and refluxed in water bath for 2 hours. After cooling, the reaction mixture was added to 1N HCl (80 ml) to be acidic and distributed with EtOAc. The distributed liquid was purified with column chromatography (developing solvent: C6H14-EtOAc (3:1)) after concentration, and trans-2-decenoic acid-trans-2-decenyl ester shown in the following was isolated.

reactant | Trans-2-decenoic acid | C(\C=C\CCCCCCC)(=O)O | C10H18O2
solvent | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
solvent | water | O | H2O
product | Trans-2-Decenoic Acid-Trans-2-Decenyl Ester | C(\C=C\CCCCCCC)OC(\C=C\CCCCCCC)=O | C20H36O2
